US06156700
Preparation of Ethyl α,α-dimethyl-5-nitro-1,2-benzisothiazole-3-acetate
A mixture of α,α-dimethyl-5-nitro-1,2-benzisothiazole-3-acetonitrile (0.913 g, 3.69 mmol), water (0.450 mL), concentrated sulfuric acid (4.55 mL) and ethanol (9.10 mL) is refluxed for one hour, cooled, and poured onto ice. The resultant aqueous mixture is neutralized with saturated sodium bicarbonate solution and extracted with methylene chloride. The organic extract is washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a solid. Column chromatography of the solid using silica gel and methylene chloride gives the title product as pale yellow crystals.

reactant | α,α-dimethyl-5-nitro-1,2-benzisothiazole-3-acetonitrile | 3.69 mmol, 0.913 g | CC(C#N)(C1=NSC2=C1C=C(C=C2)[N+](=O)[O-])C | C11H9N3O2S
reactant | water | 0.450 mL | O | H2O
reactant | sulfuric acid | 4.55 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 9.10 mL | C(C)O | C2H6O
product | Ethyl α,α-dimethyl-5-nitro-1,2-benzisothiazole-3-acetate | CC(C(=O)OCC)(C1=NSC2=C1C=C(C=C2)[N+](=O)[O-])C | C13H14N2O4S
